US04259504
[1-(p-Nitrophenyl)-1H-1,2,4-triazol-5-yl]pyrazine
10.0 g. of portion of N-(dimethylaminomethylene)-pyrazine carboxamide is added to a mixture of 10.3 g. of 4-nitrophenylhydrazine, 200 ml. of acetic acid and 50 ml. of p-dioxane. The mixture is heated at 90° C. for 5 hours and evaporated to dryness in vacuo. The residue is recrystallized from ethanol giving 9.0 g. of the desired product as tan crystals, mp. 188°-189° C.

reactant | N-(dimethylaminomethylene)-pyrazine carboxamide | CN(C)C=NC(=O)C1=NC=CN=C1 | C8H10N4O
reactant | 4-nitrophenylhydrazine | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | p-dioxane | O1CCOCC1 | C4H8O2
product | [1-(p-Nitrophenyl)-1H-1,2,4-triazol-5-yl]pyrazine | [N+](=O)([O-])C1=CC=C(C=C1)N1N=CN=C1C1=NC=CN=C1 | C12H8N6O2
